US08536179B2
To a stirred suspension of 6-{3-[(dimethylamino)methyl]-4-fluorophenyl}-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylic acid (210 mg, 0.570 mmol), 3-(aminomethyl)-4,6-dimethyl-2(1H)-pyridinone HCl salt (140 mg, 0.742 mmol) and HOAt (100 mg, 0.735 mmol) in DMF (15 mL) was added N-methylmorpholine (82 μl, 0.746 mmol) and EDC free base (110 mg, 0.709 mmol). The reaction was stirred for 4 h at RT and concentrated to near dryness under vacuum. Water was added till the product ppt. out. The suspension was triturated, filtered, rinsed with cold water water then dried under vacuum to give the product 6-{3-[(dimethylamino)methyl]-4-fluorophenyl}-N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxamide (186 mg, 0.370 mmol, 64.9% yield) as a light tan solid. 1H NMR (400 MHz, DMSO-d6) δ=11.47 (br. s., 1H), 8.15 (t, J=4.9 Hz, 1H), 8.04 (d, J=5.3 Hz, 1H), 7.90-7.86 (m, 1H), 7.39 (t, J=9.2 Hz, 1H), 7.35 (s, 1H), 7.27 (d, J=1.3 Hz, 1H), 5.87 (s, 1H), 4.88 (dt, J=6.6, 13.3 Hz, 1H), 4.36 (d, J=5.1 Hz, 2H), 4.26 (br. s., 2H), 2.69 (s, 6H), 2.24 (s, 3H), 2.17 (s, 3H), 2.11 (s, 3H), 1.44 (d, J=6.6 Hz, 6H). MS (ES)+m/e 503.0 [M+H]+.

reactant | 6-{3-[(dimethylamino)methyl]-4-fluorophenyl}-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxylic acid | 0.570 mmol, 210 mg | CN(C)CC=1C=C(C=CC1F)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)O | C22H25FN2O2
reactant | 3-(aminomethyl)-4,6-dimethyl-2(1H)-pyridinone HCl salt | 0.742 mmol, 140 mg | Cl.NCC=1C(NC(=CC1C)C)=O
reactant | HOAt | 0.735 mmol, 100 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 0.746 mmol, 82 μl | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.709 mmol, 110 mg
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 6-{3-[(dimethylamino)methyl]-4-fluorophenyl}-N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxamide | 0.370 mmol, 186 mg, 64.9% yield | CN(C)CC=1C=C(C=CC1F)C=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C30H35FN4O2
